US05576188
Stage 1: Preparation of 3-ethyl-4-nitroso-5-methylphenol
102 g (749 mmol) of 3-ethyl-5-methylphenol are introduced into 600 ml of ethanol. While stirring vigorously, 600 ml of concentrated hydrochloric acid are added dropwise, keeping the reaction vessel at room temperature by cooling. The reaction mixture is then cooled to 0° C. At this temperature, 77.5 g (1123.5 mmol) of sodium nitrite in 78 ml of deionised water are added dropwise. The resulting mixture is then stirred at 5° C. for 2 hours and subsequently poured into 3 liters of ice-water, when the title compound crystallises out. It is filtered off, washed several times with ice-water and recrystallised from methanol. Yield 88.7 g (71.8% of theory); melting point 138° C. (with decomposition).

reactant | 3-ethyl-5-methylphenol | 749 mmol, 102 g | C(C)C=1C=C(C=C(C1)C)O | C9H12O
reactant | ethanol | 600 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 600 ml | Cl | ClH
reactant | sodium nitrite | 1123.5 mmol, 77.5 g | N(=O)[O-].[Na+]
solvent | water | 78 ml | O | H2O
product | 3-ethyl-4-nitroso-5-methylphenol | C(C)C=1C=C(C=C(C1N=O)C)O | C9H11NO2
